US05990101
To 20 ml of a THF solution containing 1.06 g of 2-(N-t-butoxycarbonylamino)methyl-5-hydroxymethylthiazole, 959 mg of phthalimide, 1.7 g of triphenylphosphine and 1.03 ml of diethyl azodicarboxylate were added, and the mixture was then stirred at room temperature for 1 hour. Then, the solvent was evaporated under reduced pressure, and the resulting residue was purified by a silica gel column chromatograph and Cephadex LH-20 in succession to obtain 1.02 g of 2-(N-t-butoxycarbonylamino)methyl-5-phthalimidomethylthiazole.

reactant | 2-(N-t-butoxycarbonylamino)methyl-5-hydroxymethylthiazole | 1.06 g | C(C)(C)(C)OC(=O)NCC=1SC(=CN1)CO | C10H16N2O3S
reactant | phthalimide | 959 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 1.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.03 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(N-t-butoxycarbonylamino)methyl-5-phthalimidomethylthiazole | 1.02 g | C(C)(C)(C)OC(=O)NCC=1SC(=CN1)CN1C(C=2C(C1=O)=CC=CC2)=O | C18H19N3O4S
